### PR TITLE
[Merged by Bors] - feat(Data/EReal): Add results about `EReal`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add results about operations on the extended real numbers.

- Instances for `EReal`: `CharZero` and `NoZeroDivisors`.
- Results about the coercion to the reals: `toReal_eq_zero_iff`, `toReal_ne_zero_iff`, `toReal_nonneg`, `toReal_nonpos`, `coe_ennreal_toReal`.
- Results about the addition of EReals: `add_ne_bot_iff`, `bot_lt_add_iff`, `add_ne_top` and similar.
- Reorganize and rename the lemmas `le_neg` and similar to make them more consistent, add the missing ones.
- Results about the subtraction of EReals: `top_sub_of_ne_top`, `sub_self`, `sub_self_le_zero`, `sub_nonneg` and similar, `sub_add_cancel` and similar.
- Results about the multiplication of Ereals:  `top_mul_coe_ennreal`, `coe_ennreal_mul_top`, `mul_pos_iff` and similar, `mul_eq_top` and similar, `coe_mul_add_of_nonneg` and other distributivity lemmas, `nsmul_eq_mul`.
- Move and simplify proof of `mul_pos`.
- Clenaup.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by LorenzoLuccioli** [comment]
Thank you @Ruben-VandeVelde, I removed all the formatting changes to existing code, now the PR should look less scary.

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -832,6 +865,20 @@ theorem add_lt_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y < ⊤
   rw [← EReal.top_add_top]
   exact EReal.add_lt_add hx.lt_top hy.lt_top
 
+lemma add_ne_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y ≠ ⊤ := by
+  rw [← lt_top_iff_ne_top]
+  exact add_lt_top hx hy
+
+lemma add_ne_top_iff_of_ne_bot {x y : EReal} (hx : x ≠ ⊥) (hy : y ≠ ⊥) :
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:872]: I don't really understand the name of this lemma

File: Mathlib/Data/Real/EReal.lean [hunk 2]
```diff
@@ -832,6 +865,20 @@ theorem add_lt_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y < ⊤
...
+    x + y ≠ ⊤ ↔ x ≠ ⊤ ∧ y ≠ ⊤ := by
+  refine ⟨?_, fun h ↦ add_ne_top h.1 h.2⟩
+  induction x <;> simp_all
+  induction y <;> simp_all
+
+lemma add_ne_top_iff_of_ne_bot_of_ne_top {x y : EReal} (hy : y ≠ ⊥) (hy' : y ≠ ⊤) :
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:878]: I don't really understand the name of this lemma

File: Mathlib/Data/Real/EReal.lean [hunk 3]
```diff
@@ -909,30 +956,37 @@ theorem neg_strictAnti : StrictAnti (- · : EReal → EReal) :=
 protected theorem neg_le {a b : EReal} : -a ≤ b ↔ -b ≤ a := by
  rw [← neg_le_neg_iff, neg_neg]
 
-/-- if `-a ≤ b` then `-b ≤ a` on `EReal`. -/
+/-- `-a ≤ b → -b ≤ a` on `EReal`. -/
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:959]: I must say that I prefer the previous version with "if..."

File: Mathlib/Data/Real/EReal.lean [hunk 4]
```diff
@@ -909,30 +956,37 @@ theorem neg_strictAnti : StrictAnti (- · : EReal → EReal) :=
...
+protected theorem le_neg_of_le_neg {a b : EReal} (h : a ≤ -b) : b ≤ -a := EReal.le_neg.mp h
 
+/-- `-a < b ↔ -b < a` on `EReal`. -/
 theorem neg_lt_comm {a b : EReal} : -a < b ↔ -b < a := by rw [← neg_lt_neg_iff, neg_neg]
 
 @[deprecated (since := "2024-11-19")] alias neg_lt_iff_neg_lt := neg_lt_comm
 
-theorem neg_lt_of_neg_lt {a b : EReal} (h : -a < b) : -b < a := neg_lt_comm.1 h
+/-- `-a < b → -b < a` on `EReal`. -/
+protected theorem neg_lt_of_neg_lt {a b : EReal} (h : -a < b) : -b < a := neg_lt_comm.mp h
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:976]: why the `_comm`?

File: Mathlib/Data/Real/EReal.lean [hunk 5]
```diff
@@ -971,11 +1025,32 @@ theorem top_sub_coe (x : ℝ) : (⊤ : EReal) - x = ⊤ :=
 theorem coe_sub_bot (x : ℝ) : (x : EReal) - ⊥ = ⊤ :=
   rfl
 
-lemma sub_bot {a : EReal} (h : a ≠ ⊥) : a - ⊥ = ⊤ := by
-  induction a
-  · simp only [ne_eq, not_true_eq_false] at h
-  · rw [coe_sub_bot]
-  · rw [top_sub_bot]
+lemma sub_bot {x : EReal} (h : x ≠ ⊥) : x - ⊥ = ⊤ := by
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1028]: Why not marking `sub_bot` and `_top` as `simp`?

File: Mathlib/Data/Real/EReal.lean [hunk 6]
```diff
@@ -971,11 +1025,32 @@ theorem top_sub_coe (x : ℝ) : (⊤ : EReal) - x = ⊤ :=
...
+lemma sub_self {x : EReal} (h_top : x ≠ ⊤) (h_bot : x ≠ ⊥) : x - x = 0 := by
+  induction x <;> simp_all [← coe_sub]
+
+lemma sub_self_le_zero {x : EReal} : x - x ≤ 0 := by
+  induction x <;> simp
+
+lemma sub_nonneg {x y : EReal} (h_top : x ≠ ⊤ ∨ y ≠ ⊤) (h_bot : x ≠ ⊥ ∨ y ≠ ⊥) :
+    0 ≤ x - y ↔ y ≤ x := by
+  induction x <;> induction y <;> simp_all [← EReal.coe_sub]
+
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1044]:
```suggestion
  cases x <;> cases y <;> simp_all [← EReal.coe_sub]
```
Just to remind you that well above I suggested this change...

File: Mathlib/Data/Real/EReal.lean [hunk 7]
```diff
@@ -1093,8 +1175,8 @@ lemma add_le_of_forall_lt {a b c : EReal} (h : ∀ a' < a, ∀ b' < b, a' + b' 
 lemma le_add_of_forall_gt {a b c : EReal} (h₁ : a ≠ ⊥ ∨ b ≠ ⊤) (h₂ : a ≠ ⊤ ∨ b ≠ ⊥)
     (h : ∀ a' > a, ∀ b' > b, c ≤ a' + b') : c ≤ a + b := by
   rw [← neg_le_neg_iff, neg_add h₁ h₂]
-  exact add_le_of_forall_lt fun a' ha' b' hb' ↦ le_neg_of_le_neg
-    <| (h (-a') (lt_neg_of_lt_neg ha') (-b') (lt_neg_of_lt_neg hb')).trans_eq
+  exact add_le_of_forall_lt fun a' ha' b' hb' ↦ EReal.le_neg_of_le_neg
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1178]: Although I appreciate the synthesis, I think that expanding this proof a bit might help. In particular, constructing the huge function term in the `exact` is a bit cheating, no?

File: Mathlib/Data/Real/EReal.lean [hunk 8]
```diff
@@ -1251,6 +1366,59 @@ instance : HasDistribNeg EReal where
...
+  nth_rw 1 [← neg_zero]
+  rw [EReal.le_neg, ← mul_neg, mul_nonneg_iff, EReal.neg_le, EReal.le_neg, neg_zero]
+
+lemma mul_eq_top (a b : EReal) :
+    a * b = ⊤ ↔ (a = ⊥ ∧ b < 0) ∨ (a < 0 ∧ b = ⊥) ∨ (a = ⊤ ∧ 0 < b) ∨ (0 < a ∧ b = ⊤) := by
+  induction a, b using EReal.induction₂_symm with
+  | symm h =>
+    rw [EReal.mul_comm, h]
+    refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+      <;> cases h with
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1383]:
```suggestion
    refine ⟨fun H ↦ ?_, fun H ↦ ?_⟩ <;>
    cases H with
```

File: Mathlib/Data/Real/EReal.lean [hunk 9]
```diff
@@ -1251,6 +1366,59 @@ instance : HasDistribNeg EReal where
...
+  | top_top => simp
+  | top_pos _ hx => simp [EReal.top_mul_coe_of_pos hx, hx]
+  | top_zero => simp
+  | top_neg _ hx => simp [hx.le, EReal.top_mul_coe_of_neg hx]
+  | top_bot => simp
+  | pos_bot _ hx => simp [hx.le, EReal.coe_mul_bot_of_pos hx]
+  | coe_coe x y =>
+    simp only [EReal.coe_ne_bot, EReal.coe_neg', false_and, and_false, EReal.coe_ne_top,
+      EReal.coe_pos, or_self, iff_false, EReal.coe_mul]
+    exact EReal.coe_ne_top _
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1399]:
```suggestion
    simpa only [EReal.coe_ne_bot, EReal.coe_neg', false_and, and_false, EReal.coe_ne_top,
      EReal.coe_pos, or_self, iff_false, EReal.coe_mul] using EReal.coe_ne_top _
```

File: Mathlib/Data/Real/EReal.lean [hunk 10]
```diff
@@ -1251,6 +1366,59 @@ instance : HasDistribNeg EReal where
...
+  | zero_bot => simp
+  | neg_bot _ hx => simp [hx, EReal.coe_mul_bot_of_neg hx]
+  | bot_bot => simp
+
+lemma mul_ne_top (a b : EReal) :
+    a * b ≠ ⊤ ↔ (a ≠ ⊥ ∨ 0 ≤ b) ∧ (0 ≤ a ∨ b ≠ ⊥) ∧ (a ≠ ⊤ ∨ b ≤ 0) ∧ (a ≤ 0 ∨ b ≠ ⊤) := by
+  rw [ne_eq, mul_eq_top]
+  set_option push_neg.use_distrib true in push_neg
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1407]: Since setting options while using tactics is poorly documented, can you add a line explaining what you're doing here?

File: Mathlib/Data/Real/EReal.lean [hunk 11]
```diff
@@ -1291,6 +1459,31 @@ lemma left_distrib_of_nonneg {a b c : EReal} (ha : 0 ≤ a) (hb : 0 ≤ b) :
...
+lemma left_distrib_of_nonneg_of_ne_top {x : EReal} (hx_nonneg : 0 ≤ x)
+    (hx_ne_top : x ≠ ⊤) (y z : EReal) :
+    x * (y + z) = x * y + x * z := by
+  by_cases hx0 : x = 0
+  · simp [hx0]
+  have hx_pos : 0 < x := hx_nonneg.lt_of_ne' hx0
+  lift x to ℝ using ⟨hx_ne_top, hx_pos.ne_bot⟩
+  induction y <;> induction z <;>
+    simp [mul_bot_of_pos hx_pos, mul_top_of_pos hx_pos, ← coe_mul];
+    try rw_mod_cast [mul_add]
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1471]:
```suggestion
    rw_mod_cast [mul_add]
```

File: Mathlib/Data/Real/EReal.lean [hunk 12]
```diff
@@ -1291,6 +1459,31 @@ lemma left_distrib_of_nonneg {a b c : EReal} (ha : 0 ≤ a) (hb : 0 ≤ b) :
...
+
+lemma right_distrib_of_nonneg_of_ne_top {x : EReal} (hx_nonneg : 0 ≤ x)
+    (hx_ne_top : x ≠ ⊤) (y z : EReal) :
+    (y + z) * x = y * x + z * x := by
+  simp_rw [EReal.mul_comm _ (x : EReal)]
+  exact left_distrib_of_nonneg_of_ne_top hx_nonneg hx_ne_top y z
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1477]:
```suggestion
  simpa only [EReal.mul_comm] using left_distrib_of_nonneg_of_ne_top hx_nonneg hx_ne_top y z
```

**Review by faenuccio — COMMENTED** [review]
For the time being I have just checked `Mathlib\Data\Real\EReal.lean`, and it is very good. Besides addressing my comments, can you also add some `doc` at the top of that file documenting your additions?

File: Mathlib/Data/Real/EReal.lean (hunk 4 above)
Comment (LorenzoLuccioli) [reply Mathlib/Data/Real/EReal.lean:976]: I originally renamed the theorem to `neg_lt` in this PR to be consistent with `neg_le` and the same lemmas for additive groups, but a few days ago the new name `neg_lt_comm` was approved (#18879) and I did not want to revert the decision.
However `neg_lt` and `lt_neg` look like most natural names for these results, so maybe we should just change them.
What do you think? 
And if we change them, how should we handle the double deprecation on the first one?

File: Mathlib/Data/Real/EReal.lean (hunk 3 above)
Comment (LorenzoLuccioli) [reply Mathlib/Data/Real/EReal.lean:959]: I don't have a strong opinion about this, I mainly changed it for consistency, since `neg_le` already had the comment:
'''
/-- `-a ≤ b ↔ -b ≤ a` on `EReal`. -/
'''

Do you think I should also change the `↔` to `iff` there?

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (LorenzoLuccioli) [reply Mathlib/Data/Real/EReal.lean:872]: I'm not sure how else we could call it, this is basically the description of the statement: if the elements are not bot (`of_ne_bot`), then the sum is not top (`add_ne_top`) if and only if (`iff`) something...
The only other name that comes to mind is `add_ne_top_iff_ne_top_of_ne_bot`, which is even longer.

File: Mathlib/Data/Real/EReal.lean (hunk 2 above)
Comment (LorenzoLuccioli) [reply Mathlib/Data/Real/EReal.lean:878]: Same as above. 
Here maybe we could name it something like `add_ne_top_iff_of_finite` or `add_finite_ne_top_iff_ne_top`, since we are basically asking for `y` to be finite, but I'm not sure these names are actually acceptable, because nothing named `finite` actually appears in the statement...

File: Mathlib/Data/Real/EReal.lean [hunk 13]
```diff
@@ -657,18 +688,18 @@ theorem natCast_ne_bot (n : ℕ) : (n : EReal) ≠ ⊥ := Ne.symm (ne_of_beq_fal
 
 theorem natCast_ne_top (n : ℕ) : (n : EReal) ≠ ⊤ := Ne.symm (ne_of_beq_false rfl)
 
-@[simp, norm_cast]
+@[norm_cast]
```
[the remark this answers is not in the document]
Comment (LorenzoLuccioli) [reply Mathlib/Data/Real/EReal.lean:691]: Because `simp` alone can already prove these lemmas.
In this case it is ok to remove the `@[simp]`, right?

File: Mathlib/Data/Real/EReal.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean]: Yes, personally I find it nicer that we use plain normal English in comments everywehere.

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean:873]: Well, but the `of_` part refers to the assumptions `hx` and `hy`. I would go for `add_ne_top_iff_ne_top2` (with the `2` as a subscript, but cannot do this in this github comment...)

File: Mathlib/Data/Real/EReal.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean:879]: I agree that `finite` is not an option, but perhaps my suggestion above helps?

File: Mathlib/Data/Real/EReal.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean:694]: Sure, my bad! Thanks.

File: Mathlib/Data/Real/EReal.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Data/Real/EReal.lean:879]: Option 2. (with the addition) is certainly the best!

File: Mathlib/Data/Real/EReal.lean [hunk 14]
```diff
@@ -29,6 +29,9 @@ but it is sometimes convenient to have.
 An ad hoc multiplication is defined, for which `EReal` is a `CommMonoidWithZero`. We make the
 choice that `0 * x = x * 0 = 0` for any `x` (while the other cases are defined non-ambiguously).
 This does not distribute with addition, as `⊥ = ⊥ + ⊤ = 1*⊥ + (-1)*⊥ ≠ (1 - 1) * ⊥ = 0 * ⊥ = 0`.
+Distributivity `x * (y + z) = x * y + x * z` is recovered in the case where either `0 ≤ x < ⊤`,
+see `left_distrib_of_nonneg_of_ne_top`, or `0 ≤ y, z`, see `left_distrib_of_nonneg` (similarily
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:33]:
```suggestion
see `Ereal.left_distrib_of_nonneg_of_ne_top`, or `0 ≤ y, z`, see
`Ereal.left_distrib_of_nonneg` (similarily
```
can you check more generally that in the doc all declarations are called with their full name (including the namespace)? This makes the website links work.

File: Mathlib/Data/Real/EReal.lean [hunk 15]
```diff
@@ -828,9 +864,21 @@ theorem add_lt_add_of_lt_of_le {x y z t : EReal} (h : x < y) (h' : z ≤ t) (hz
...
+
+lemma add_ne_top {x y : EReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) : x + y ≠ ⊤ :=
+  lt_top_iff_ne_top.mp <| add_lt_top hx hy
+
+lemma add_ne_top_iff_ne_top₂ {x y : EReal} (hx : x ≠ ⊥) (hy : y ≠ ⊥) :
+    x + y ≠ ⊤ ↔ x ≠ ⊤ ∧ y ≠ ⊤ := by
+  refine ⟨?_, fun h ↦ add_ne_top h.1 h.2⟩
+  cases x <;> simp_all
+  cases y <;> simp_all
+
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:878]:
```suggestion
  cases x <;> simp_all only [ne_eq, not_true_eq_false]
  cases y <;> simp_all only [coe_ne_bot, not_false_eq_true, not_true_eq_false]
```

File: Mathlib/Data/Real/EReal.lean [hunk 16]
```diff
@@ -905,34 +953,41 @@ theorem neg_strictAnti : StrictAnti (- · : EReal → EReal) :=
 
 @[simp] theorem neg_lt_neg_iff {a b : EReal} : -a < -b ↔ b < a := neg_strictAnti.lt_iff_lt
 
-/-- `-a ≤ b ↔ -b ≤ a` on `EReal`. -/
+/-- `-a ≤ b`iff `-b ≤ a` on `EReal`. -/
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:956]:
```suggestion
/-- `-a ≤ b` if and only if `-b ≤ a` on `EReal`. -/
```
Let's respect English language a bit :smile:

File: Mathlib/Data/Real/EReal.lean [hunk 17]
```diff
@@ -905,34 +953,41 @@ theorem neg_strictAnti : StrictAnti (- · : EReal → EReal) :=
...
+/-- `-a < b` iff `-b < a` on `EReal`. -/
 theorem neg_lt_comm {a b : EReal} : -a < b ↔ -b < a := by rw [← neg_lt_neg_iff, neg_neg]
 
 @[deprecated (since := "2024-11-19")] alias neg_lt_iff_neg_lt := neg_lt_comm
 
-theorem neg_lt_of_neg_lt {a b : EReal} (h : -a < b) : -b < a := neg_lt_comm.1 h
+/-- If `-a < b` then `-b < a` on `EReal`. -/
+protected theorem neg_lt_of_neg_lt {a b : EReal} (h : -a < b) : -b < a := neg_lt_comm.mp h
 
+/-- `a < -b` iff `b < -a` on `EReal`. -/
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:978]:
```suggestion
/-- `-a < b` if and only if `-b < a` on `EReal`. -/
```
Please take care of all the other `iff`...

File: Mathlib/Data/Real/EReal.lean [hunk 18]
```diff
@@ -1291,6 +1463,30 @@ lemma left_distrib_of_nonneg {a b c : EReal} (ha : 0 ≤ a) (hb : 0 ≤ b) :
   nth_rewrite 1 [EReal.mul_comm]; nth_rewrite 2 [EReal.mul_comm]; nth_rewrite 3 [EReal.mul_comm]
   exact right_distrib_of_nonneg ha hb
 
+lemma left_distrib_of_nonneg_of_ne_top {x : EReal} (hx_nonneg : 0 ≤ x)
+    (hx_ne_top : x ≠ ⊤) (y z : EReal) :
+    x * (y + z) = x * y + x * z := by
+  by_cases hx0 : x = 0
+  · simp [hx0]
+  have hx_pos : 0 < x := hx_nonneg.lt_of_ne' hx0
```
Comment (faenuccio) [inline Mathlib/Data/Real/EReal.lean:1471]: Since you won't need `hx0` any more, you could also do `replace hx0 : 0 < x`... to have one hypothesis less in the context.

**Comment by faenuccio** [comment]
Thanks!

**Comment by faenuccio** [comment]
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
